US04618617
To a solution of 1.52 g of 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole in 30 ml of DMF was added 1.68 g of morpholine. The mixture was allowed to stand at room temperature overnight, then poured into ice-water and extracted with benzene. The organic phase was washed with water, dried over sodium sulfate and evaporated. The residue was chromatographed over silica gel using benzene-ethyl acetate (5:2, v/v) as an eluent to yield 1.83 g of 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-morpholinomethyl-1,2,4-oxadiazole as an oil. It was crystallized from diisopropyl ether to give colorless needles, m.p. 91.5°-92.5° C.

reactant | 3-chloromethyl-5-(3-fluoro-4-phenyl-α-methylbenzyl)-1,2,4-oxadiazole | 1.52 g | ClCC1=NOC(=N1)C(C1=CC(=C(C=C1)C1=CC=CC=C1)F)C | C17H14ClFN2O
reactant | morpholine | 1.68 g | N1CCOCC1 | C4H9NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-(3-fluoro-4-phenyl-α-methylbenzyl)-3-morpholinomethyl-1,2,4-oxadiazole | 1.83 g | FC=1C=C(C(C)C2=NC(=NO2)CN2CCOCC2)C=CC1C1=CC=CC=C1 | C21H22FN3O2
